US06713471B1
A solution of acetonitrile (30 mL) and o-thiocresol (5.0 g, 40 mmol) was heated to reflux. Neat β-propiolactone (2.8 mL, 40 mmol) was added dropwise over 5 min. Heating was continued at reflux for 20 h at which time additional β-propiolactone (2.8 mL, 40 mmol) was added in one portion. After heating for an additional 24 h, the reaction mixture was concentrated in vacuo. The resultting solid-oil mixture was treated at 23° C. with 2N aqueous NaOH (150 mL). This basic solution was washed with Et2O (2×200 mL). The separated aqueous layer was acidified with conc. aqueous HCl until pH<1. This heterogenous solution was concentrated in vacuo to half of its original volume. Then it was allowed to stand at 23° C. for 2 h. The solid product was collected by vacuum filtration, washed with H2O (20 mL), and dried under vacuum at 65° C. for 2 h to afford 3-[(2-methylphenyl)sulfanyl]propanoic acid (4.62 g, 59%) as a white powder. 1H NMR (CHCl3, 300 MHz) δ7.31 (d, 1H, J=7.0 Hz), 7.20-7.15 (m, 3H), 3.14 (t, 2H, J=7.3 Hz), 2.69 (t, 2H, J=7.4 Hz), 2.39 (s, 3H) ppm.

reactant | o-thiocresol | 40 mmol, 5.0 g | CC1=CC=CC=C1S | C7H8S
reactant | β-propiolactone | 40 mmol, 2.8 mL | C1(CCO1)=O | C3H4O2
reactant | β-propiolactone | 40 mmol, 2.8 mL | C1(CCO1)=O | C3H4O2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3-[(2-methylphenyl)sulfanyl]propanoic acid | 4.62 g, 59% | CC1=C(C=CC=C1)SCCC(=O)O | C10H12O2S
